US06313132B1
41.2 2-Methoxyphenyllithium
2-Methoxybromobenzene (8.44 g 45.1 mmol) was dissolved in dry diethyl ether (15 mL). The mixture was cooled to −78° C. n-BuLi (17.8 mL, 45.0 mmol) was added and the mixture was stirred for one hour at −78° C. and then for 20 min. at −10° C. The aryl lithium solution was used immediately.

reactant | 2-Methoxybromobenzene | 45.1 mmol, 8.44 g | COC1=C(C=CC=C1)Br | C7H7BrO
reactant | n-BuLi | 45.0 mmol, 17.8 mL | [Li]CCCC
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 2-Methoxyphenyllithium | COC1=C(C=CC=C1)[Li] | InChI=1S/C7H7O.Li/c1-8-7-5-3-2-4-6-7;/h2-5H,1H3;
